US06972340B2
methyl 2-[4-({N-[(allyloxy)carbonyl]-4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-L-phenylalanyl}amino)butoxy]-6-hydroxybenzoate
A mixture methyl 2-{4-[(N-[(allyloxy)carbonyl]-4-{{2-[(benzhydryloxy)carbonyl]phenyl}[tert-butoxy(oxo)acetyl]amino}-L-phenylalanyl)amino]butoxy}-6-hydroxybenzoate (89 mg, 0.10 mmol), 20 mg of resorcinol, and trifluoroacetic acid (1.5 mL) in methylene chloride (2.0 mL) was stirred for 5 hours, concentrated under reduced pressure. The crude product was purified on a Gilson preparative HPLC to provide the titled compound as a white powder (35 mg, 0.052 mmol, 52%). MS (ESI+) m/e 678 (M+H)+, 1H NMR (300 MHz, DMSO-d6) 1.40-1.66 (m, 4H), 2.68-2.83 (m, 1H), 2.83-2.98 (m, 1H), 2.98-3.15 (m, 2H), 3.72 (s, 3H), 3.90 (t, J=5.85 Hz, 1H), 4.09-4.12 (m, 1H), 4.33-4.41 (m, 2H), 5.08 (d, J=10.8 Hz, 1H), 5.18 (d, J=18.0 Hz, 1H), 5.70-5.90 (m, 1H), 6.47 (d, J=8.7 Hz, 1H), 7.25 (d, J=8.7 Hz, 1H), 7.29 (d, J=8.7 Hz, 1H), 7.36 (d, J=8.7 Hz, 1H), 7.38-7.66 (m, 3H), 7.93-8.03 (m, 2H), 9.92 (s, 1H).

reactant | methyl 2-{4-[(N-[(allyloxy)carbonyl]-4-{{2-[(benzhydryloxy)carbonyl]phenyl}[tert-butoxy(oxo)acetyl]amino}-L-phenylalanyl)amino]butoxy}-6-hydroxybenzoate | 0.10 mmol, 89 mg | C(C=C)OC(=O)N[C@@H](CC1=CC=C(C=C1)N(C(C(=O)OC(C)(C)C)=O)C1=C(C=CC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O | C51H53N3O12
reactant | resorcinol | 20 mg | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-[4-({N-[(allyloxy)carbonyl]-4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-L-phenylalanyl}amino)butoxy]-6-hydroxybenzoate | 0.052 mmol, 35 mg, 52% | C(C=C)OC(=O)N[C@@H](CC1=CC=C(C=C1)N(C1=C(C=CC=C1)C(=O)O)C(=O)C(=O)O)C(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O | C34H35N3O12
